US04590188
A mixture of 1.48 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-7,8-dichloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.64 g of 2-(dimethylamino)ethyl chloride hydrochloride, 1.66 g of potassium carbonate, 45 ml of acetone and 0.5 ml of water is refluxed for 22 hours. After the reaction is completed, insoluble materials are removed by filtration. The filtrate is evaporated to remove solvent, and diisopropyl ether is added to the residue. The precipitated crystals are collected by filtration and then recrystallized from ethyl acetate. 1.18 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-7,8-dichloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-7,8-dichloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.48 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=C(C(=C2)Cl)Cl | C16H13Cl2NO3S
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 0.64 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 45 ml | CC(=O)C | C3H6O
solvent | water | 0.5 ml | O | H2O
product | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-7,8-dichloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.18 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=C(C(=C2)Cl)Cl | C20H22Cl2N2O3S
